US05654307
A solution of methyl 2-aminothiophene-3-carboxylate (602.1 mg, 3.83 mmol) in formamide (5 mL) is heated at 200 ° C. for 12 h. The resulting tar is dissolved in CH2Cl2 (10 mL) then placed on a silica plug and eluted with 10% MeOH in CH2Cl2. The filtrate is stripped under reduce pressure and the resulting solid is washed with EtOH to yield 3H-thieno[2,3-d]pyrimid-4-one (231.4 mg, 40%) as an orange solid. 1H NMR (DMSO) δ 12.50 (1H, brs), 8.13 (1H, s), 7.60 (1H, d, J=5.8 Hz), 7.41 (1H, d, J=6.0 Hz).

reactant | methyl 2-aminothiophene-3-carboxylate | 3.83 mmol, 602.1 mg | NC=1SC=CC1C(=O)OC | C6H7NO2S
reactant | formamide | 5 mL | C(=O)N | CH3NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3H-thieno[2,3-d]pyrimid-4-one | 231.4 mg, 40% | N1=CNC(C2=C1SC=C2)=O | C6H4N2OS
